US04245097
p-Aminobenzonitrile (12 g.) and 16-bromo-1-hexadecanol (15 g.) are dissolved in hexamethylphosphoramide (200 ml.) and heated under nitrogen in an oil bath maintained at 120° C. for 22 hours. The reaction mixture is cooled to room temperature and water (50 ml.) is added gradually. The mixture is then chilled in an ice-bath. The precipitate separated is filtered, washed thoroughly with water, and dried. It is then washed repeatedly with hexane and dried. The pale brownish yellow granular solid is obtained as a homogeneous product. Recrystallization from ether-hexane affords 4-(16-hydroxyhexadecylamino)benzonitrile as pale yellow prisms.

reactant | p-Aminobenzonitrile | 12 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 16-bromo-1-hexadecanol | 15 g | BrCCCCCCCCCCCCCCCCO | C16H33BrO
reactant | water | 50 ml | O | H2O
solvent | hexamethylphosphoramide | 200 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 4-(16-hydroxyhexadecylamino)benzonitrile | OCCCCCCCCCCCCCCCCNC1=CC=C(C#N)C=C1 | C23H38N2O
